US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,5-dimethylpiperazin -1-yl]benzamide
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,5-dimethylpiperazin-1-yl]benzamide was prepared following the procedure as for Example 155, but starting with ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate (0.525 g, 2 mmol), 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.495 g, 2.00 mmol) and 2M trimethylaluminium (2.5 ml, 5.0 mmol in toluene). The crude mixture was chromatographed on a SCX column, eluting with 7N ammonia in methanol. Fractions containing product were combined and evaporated to give an oil. The oil was suspended in dichloromethane (20 ml) and product slowly crystallised out. This was filtered to give the title compound (0.465 g, 50.2%).

reactant | ethyl 4-((3R,5S)-3,5-dimethylpiperazin-1-yl)benzoate | 2 mmol, 0.525 g | C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C(=O)OCC)C=C1 | C15H22N2O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 2.00 mmol, 0.495 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | 5.0 mmol, 2M, 2.5 ml | C[Al](C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,5-dimethylpiperazin -1-yl]benzamide | 0.465 g, 50.2% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(C1=CC=C(C=C1)N1C[C@H](N[C@H](C1)C)C)=O | C26H33N5O3
